US09326516B2
1-(1-(3-Chlorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C25)
The title compound was prepared with 2-amino-2-(3-chlorophenyl)ethanol and 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole and isolated as a white solid (1.48 g, quantitative): 1H NMR (300 MHz, CDCl3) δ 8.07 (s, 1H), 7.69 (d, J=8.4 Hz, 2H), 7.31 (d, J=8.7 Hz, 3H), 7.21 (d, J=8.5 Hz, 2H), 6.83-6.72 (m, 3H), 6.67 (d, J=7.3 Hz, 4H), 6.39 (d, J=7.9 Hz, 1H), 5.09 (s, 1H), 3.14 (dd, J=10.7, 4.4 Hz, 1H), 2.93 (dd, J=10.7, 8.0 Hz, 1H); ESIMS m/z 518 ([M+H]+).

reactant | 2-amino-2-(3-chlorophenyl)ethanol | NC(CO)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 3-(4-isothiocyanatophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C16H9F3N4S
product | 1-(1-(3-Chlorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | ClC=1C=C(C=CC1)C(CO)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C24H19ClF3N5OS
